US06423714B1
A solution of 3-ethoxy-2-cyclohepten-1-one(5 g, 0.89 mol) in THF (70 mL) was added at room temperature to a solution of 2M benzyl magnesium chloride (800 ml) under N2 and stirred for 6 h. The resulting mixture was poured into a solution of 30% H2SO4 and stirred for 5 h. The resulting organic layer was separated, and the aqueous layer was extracted with several portions of ether. The combined organic layer was dried (MgSO4), and concentrated in vacuo to give 3-benzyl-2-cyclohepten-1-one (3.1 g, 65%) as a colorless oil. NMR (CDCl3); 3.45(s,2H1benzylic protons), 5.97 (bs, 1H, olefinic proton), 7.22 (m, 5H, aromatic protons).

reactant | 3-ethoxy-2-cyclohepten-1-one | 0.89 mol, 5 g | C(C)OC1=CC(CCCC1)=O | C9H14O2
reactant | benzyl magnesium chloride | 2M, 800 ml | C(C1=CC=CC=C1)[Mg]Cl
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 3-benzyl-2-cyclohepten-1-one | 3.1 g, 65% | C(C1=CC=CC=C1)C1=CC(CCCC1)=O | C14H16O
